US09403807B2
Step A: N-(1-(3-(4-Chlorophenyl)-1-fluoropentan-3-yl)-1H-indol-4-yl)methanesulfonamide
To a solution of N-(1-(3-(4-chlorophenyl)-1-hydroxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide (20 mg, 0.05 mmol), as described in Example 40 Step I, in DCM (5 mL) was added DAST (16 mg, 0.1 mmol) at 0° C. The mixture was stirred for 1 h, then quenched with saturated aqueous ammonium chloride (5 mL) and extracted with ethyl acetate. The combined organics were washed with water (5 mL) and brine (5 mL), dried over MgSO4, filtered and concentrated. The resulting crude product was purified by Pre-HPLC (Mobile phase: acetonitrile/water (0.03% TFA)) to afford the title racemic compound as a white solid. The racemic compound was submitted to chiral SFC separation using IC (30% MeOH (0.1% DEA)/CO2, 4.6×250 mm, 41° C.) to give two separated enantiomers. LC/MS m/z=409.1[M+H]+.

reactant | N-(1-(3-(4-chlorophenyl)-1-hydroxypentan-3-yl)-1H-indol-4-yl)methanesulfonamide | 0.05 mmol, 20 mg | ClC1=CC=C(C=C1)C(CCO)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H23ClN2O3S
reactant | DAST | 0.1 mmol, 16 mg | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(3-(4-Chlorophenyl)-1-fluoropentan-3-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CCF)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C20H22ClFN2O2S
